US04433160
In the same way as in Comparative Example 7, p-(3-methyl-2-butenyl)phenyl copper (I) was reacted with ethyl α-bromopropionate. Ethyl α-[p-(3-methyl-2-butenyl)phenyl]propionate was obtained in an amount of 1.64 g (yield 6.7%).

reactant | p-(3-methyl-2-butenyl)phenyl copper (I) | CC(=CCC1=CC=C(C=C1)[Cu])C
reactant | ethyl α-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
product | Ethyl α-[p-(3-methyl-2-butenyl)phenyl]propionate | yield 6.7% | CC(=CCC1=CC=C(C=C1)C(C(=O)OCC)C)C | C16H22O2
